US09108946B2
N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-((3,3,3-trifluoropropyl)thio)-propanamide (Compound 5.5)
A 100 mL, 3-neck round bottom flask was charged with 3-chloro-N-(3-chloro-1-(pyridine-3-yl)-1H-pyrazol-4-yl)propanamide (570 mg, 2.00 mmol) and methanol (10 mL), potassium hydroxide (135 mg, 2.40 mmol) was added, followed by 3,3,3-trifluropropane-1-thiol (312 mg, 2.40 mmol) The mixture was heated at 50° C. for 4 hours, at which point thin layer chromatography analysis [Eluent: ethyl acetate] indicated the reaction was complete to give exclusively a new product. It was cooled to 20° C. and diluted with water (20 mL) and ethyl acetate (20 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (20 mL). The organics were dried over sodium sulfate and concentrated to dryness to afford a light yellow oil, which solidified upon standing to give a light yellow solid (700 mg, 92%): mp 99-102° C.; 1H NMR (400 MHz, DMSO-d6) δ 9.92 (s, 1H), 9.05 (d, J=2.7 Hz, 1H), 8.86 (s, 1H), 8.54 (dd, J=4.5, 1.4 Hz, 1H), 8.21 (ddd, J=8.4, 2.7, 1.4 Hz, 1H), 7.54 (dd, J=8.4, 4.7 Hz, 1H), 2.86 (t, J=7.3 Hz, 2H), 2.74 (td, J=6.5, 5.6, 4.2 Hz, 4H), 2.59 (ddd, J=11.7, 9.7, 7.4 Hz, 2H); 13C NMR (101 MHz, DMSO-d6) δ 169.32, 147.49, 139.44, 135.47, 133.40, 126.60 (q, J=296 Hz), 125.49, 124.23, 122.30, 120.00, 35.18, 33.42 (q, J=27.2 Hz), 26.77, 23.05 (q, J=3.3 Hz); EIMS m/z 378 ([M]+).

reactant | 3-chloro-N-(3-chloro-1-(pyridine-3-yl)-1H-pyrazol-4-yl)propanamide | 2.00 mmol, 570 mg | ClCCC(=O)NC=1C(=NN(C1)C=1C=NC=CC1)Cl | C11H10Cl2N4O
reactant | methanol | 10 mL | CO | CH4O
reactant | potassium hydroxide | 2.40 mmol, 135 mg | [OH-].[K+]
reactant | 3,3,3-trifluropropane-1-thiol | 2.40 mmol, 312 mg | FC(CCS)(F)F | C3H5F3S
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-((3,3,3-trifluoropropyl)thio)-propanamide | 700 mg, 92% | ClC1=NN(C=C1NC(CCSCCC(F)(F)F)=O)C=1C=NC=CC1 | C14H14ClF3N4OS
